US08536179B2
6-Hydroxy-1-isopropyl-1H-indole-4-carboxylic acid methyl ester
To a stirred solution of 1-isopropyl-6-methoxy-1H-indole-4-carboxylic acid methyl ester (1.9 g, 7.69 mmol) in toluene (20 mL) was added anhydrous aluminum chloride (5.11 g, 38.4 mmol) at room temperature and then heated to reflux for 2 h. The reaction mixture was diluted with water and extracted with ethyl acetate (2×20 mL). The combined organic layer was dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography by eluting 3-15% Ethyl acetate in petroleum ether to afford the title compound 6-hydroxy-1-isopropyl-1H-indole-4-carboxylic acid methyl ester (1.5 g, 83%) as yellow colored gum. 1H NMR (400 MHz, DMSO-d6): δ 1.43 (d, J=6.8 Hz, 6H), 3.86 (s, 3H), 4.65-4.61 (m, 1H), 6.81 (d, J=2.8 Hz, 1H), 7.11 (s, 1H), 7.29 (s, 1H), 7.44 (d, J=2.8 Hz, 1H), 9.32 (bs, 1H). LCMS (ES+): m/z=234.09 [M+H]

reactant | 1-isopropyl-6-methoxy-1H-indole-4-carboxylic acid methyl ester | 7.69 mmol, 1.9 g | COC(=O)C=1C=2C=CN(C2C=C(C1)OC)C(C)C | C14H17NO3
reactant | aluminum chloride | 38.4 mmol, 5.11 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 6-hydroxy-1-isopropyl-1H-indole-4-carboxylic acid methyl ester | 1.5 g, 83% | COC(=O)C=1C=2C=CN(C2C=C(C1)O)C(C)C | C13H15NO3
